US07585875B2
To a solution of 500 mg (2 mmol) 2-chloro-1-(2-isopropylpyrazolo[1,5-a]pyridin-3-yl)propan-1-one in 4 ml of MeOH was added 227 mg (2.6 mmol) of morpholine and 150 mg NaI. The mixture was stirred at RT for 3 days. The solvent was removed and the residue dissolved in 5 ml of ether, followed by titration with 4N HCl-dioxane to obtain a precipitate. Recrystallization from isopropanol/ether produced 200 mg of pure 1-(2-isopropylpyrazolo[1,5-a]pyridin-3-yl)-2-morpholinopropan-1-one hydrochloride. Compound 1034.

reactant | 2-chloro-1-(2-isopropylpyrazolo[1,5-a]pyridin-3-yl)propan-1-one | 2 mmol, 500 mg | ClC(C(=O)C=1C(=NN2C1C=CC=C2)C(C)C)C | C13H15ClN2O
reactant | morpholine | 2.6 mmol, 227 mg | N1CCOCC1 | C4H9NO
reactant | NaI | 150 mg | [Na+].[I-]
solvent | MeOH | 4 ml | CO | CH4O
product | 1-(2-isopropylpyrazolo[1,5-a]pyridin-3-yl)-2-morpholinopropan-1-one hydrochloride | 200 mg | Cl.C(C)(C)C1=NN2C(C=CC=C2)=C1C(C(C)N1CCOCC1)=O | InChI=1S/C17H23N3O2.ClH/c1-12(2)16-15(14-6-4-5-7-20(14)18-16)17(21)13(3)19-8-10-22-11-9-19;/h4-7,12-13H,8-11H2,1-3H3;1H
